US08563617B2
325.6 [1-Benzyl-7-(2-propylsulfanyl-ethyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester
Ethyl 1-(3-chlorobenzyl)-7-(2-(propylsulfonyl)ethyl)-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate (27.1 mg, 0.057 mmol) and ammonium formate (71.5 mg, 1.134 mmol) were dissolved in 5 ml MeOH. Pd/C (0.845 mg, 7.94 μmol) was added and stirred at 80° C. for 4 h. The mixture was filtered, the solvent evaporated, the residue re-dissolved in ethyl acetate, which was subsequently washed with water, NaHCO3 and brine, dried, filtered. Solvent was evaporated to obtain white solid which was purified by chromatography affording 12.7 mg of product as a white solid.

reactant | Ethyl 1-(3-chlorobenzyl)-7-(2-(propylsulfonyl)ethyl)-1,2,3,4-tetrahydronaphthalen-2-ylcarbamate | 0.057 mmol, 27.1 mg | ClC=1C=C(CC2C(CCC3=CC=C(C=C23)CCS(=O)(=O)CCC)NC(OCC)=O)C=CC1 | C25H32ClNO4S
reactant | ammonium formate | 1.134 mmol, 71.5 mg | C(=O)[O-].[NH4+]
solvent | MeOH | 5 ml | CO | CH4O
catalyst | Pd/C | 7.94 μmol, 0.845 mg | [Pd] | Pd
product | [1-Benzyl-7-(2-propylsulfanyl-ethyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester | 12.7 mg | C(C)OC(NC1C(C2=CC(=CC=C2CC1)CCSCCC)CC1=CC=CC=C1)=O | C25H33NO2S
